US06800608B2
Triethylamine (2 mL) was added to a DMF solution (30 mL) containing vancomycin hydrochloride (1 g), biotinlyated amine (biotin-hexanediamine-aminocaproic acid, 0.4 g), and N-hydroxybenzothiazole (200 mg). After addition of 1,3-dicyclohexylcarbodiimide (1.48 g), the mixture was heated at 50° C. for 10 h and then left at ambient temperature for overnight. The solvent was evaporated to dryness. The residue was eluted on a silica gel column firstly using ethyl acetate:methanol:dichloromethane:ammonium hydroxide (6:6:2:1.2 by volume), and then 5-7% by volume of ammonium hydroxide in methanol. The ammonium-methanol fractions containing vancomycin bidentate was pooled, and the solvent was evaporated to give the solid vancomycin bidentate (yield: 0.16 g).

reactant | Triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | vancomycin hydrochloride | 1 g | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O.Cl
reactant | N-hydroxybenzothiazole | 200 mg | ON1CSC2=C1C=CC=C2 | C7H7NOS
reactant | 1,3-dicyclohexylcarbodiimide | 1.48 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | vancomycin | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O | C66H75Cl2N9O24
